US07495007B2
To the mixture of 6-chlorooxindole (0.26 g, 1.49 mmol) (Crescent) and 3,3-dimethyl-butyraldehyde (0.21 g, 2.09 mmol) (Aldrich) in methanol (20 mL) was added pyrrolidine (0.15 g, 2.09 mmol) (Aldrich) dropwise. The mixture was then heated at 100° C. for 1 h. The mixture was concentrated, and the residue was partitioned between ethyl acetate and water. The organic layer was separated, dried over Na2SO4, concentrated, and dried in vacuo to give the crude E/Z-6-chloro-3-(3,3-dimethyl-butylidene)-1,3-dihydro-indol-2-one as a white solid (Yield 0.37 g, 100%).

reactant | 6-chlorooxindole | 1.49 mmol, 0.26 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 3,3-dimethyl-butyraldehyde | 2.09 mmol, 0.21 g | CC(CC=O)(C)C | C6H12O
reactant | pyrrolidine | 2.09 mmol, 0.15 g | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-chloro-3-(3,3-dimethyl-butylidene)-1,3-dihydro-indol-2-one | Yield 0.37 g, 100% | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/CC(C)(C)C | C14H16ClNO
